US09353108B2
D) 2-Cyclopropyl-6-ethoxy-3′,4′-difluorobiphenyl-4-carbaldehyde
(1,1′-Bis(diphenylphosphino)ferrocene)dichloropalladium(II) (1.30 g) was added to a mixture of 2-cyclopropyl-6-ethoxy-4-formylphenyl trifluoromethanesulfonate (3.00 g), (3,4-difluorophenyl)boronic acid (5.60 g), cesium fluoride (5.39 g), and DME (15 mL), and the resultant mixture was stirred at 100° C. for 15 hours in an argon atmosphere. Water was added to the reaction mixture, and the mixture was filtered through celite. The filtrate was subjected to extraction with ethyl acetate. The organic layer was washed with water and saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.57 g).

reactant | 2-cyclopropyl-6-ethoxy-4-formylphenyl trifluoromethanesulfonate | 3.00 g | FC(S(=O)(=O)OC1=C(C=C(C=C1OCC)C=O)C1CC1)(F)F | C13H13F3O5S
reactant | (3,4-difluorophenyl)boronic acid | 5.60 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | cesium fluoride | 5.39 g | [F-].[Cs+]
reactant | DME | 15 mL | COCCOC | C4H10O2
solvent | Water | O | H2O
product | 2-Cyclopropyl-6-ethoxy-3′,4′-difluorobiphenyl-4-carbaldehyde | 1.57 g | C1(CC1)C1=C(C(=CC(=C1)C=O)OCC)C1=CC(=C(C=C1)F)F | C18H16F2O2
